US05714485
Step 2: Preparation of trans-4-t-butoxycarbonylaminocyclohexyl(allyloxycarbonyl)methylamine
A stirred solution of 15.0 g (62.2 mmol) of trans-4-allyloxycarbonylaminomethylcyclohexanecarboxylic acid in 550 mL of benzene and 9.1 mL (65.3 mmol) of triethylamine was heated to 45° C. under Ar. Diphenylphosphoryl azide (14.1 mL, 65.3 mmol, Aldrich) was added in one portion, and the solution stirred for 24 h at 45° C. The solution was cooled to 10° C. and 65 mL of a 1.0M solution of lithium t-butoxide in THF (Aldrich) was added such that the reaction temperature remained between 8°-10° C. A second 65 mL portion of t-butoxide solution was added, and the solution stirred for 45° C. at 8°-12° C. This solution was then poured into a rapidly stirred mixture of 1M aq. citric acid and ice, and the resulting mixture stirred for 1 h. This mixture was extracted with 2 portions of ethyl acetate, the combined organic layers washed with 2×10% Na2CO3, brine, and dried over Na2SO4. This solution was poured through a pad of 150 g of silica gel, and the pad washed with 2×300 mL of ethyl acetate. Evaporation of the filtrate gave 15.9 g (82%) of the title compound as a solid.

reactant | trans-4-allyloxycarbonylaminomethylcyclohexanecarboxylic acid | 62.2 mmol, 15.0 g | C(C=C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C12H19NO4
reactant | triethylamine | 65.3 mmol, 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphoryl azide | 65.3 mmol, 14.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | lithium t-butoxide | CC(C)([O-])C.[Li+]
reactant | t-butoxide | CC(C)([O-])C
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | benzene | 550 mL | C1=CC=CC=C1 | C6H6
solvent | THF | C1CCOC1 | C4H8O
product | trans-4-t-butoxycarbonylaminocyclohexyl(allyloxycarbonyl)methylamine | 15.9 g, 82% | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NCC(=O)OCC=C | C16H28N2O4
